US07718653B2
2-Methyl-6-(4-methylpiperazin-1-yl)pyrimidin-4-amine (71 mg), palladium acetate (1 mg), Xantphos (24 mg), caesium carbonate (166 mg) and 2-chloro-N-(5-chloro-1,3-benzodioxol-4-yl)pyrimidin-4-amine (117 mg) were dissolved in dioxane (4 ml) under nitrogen and heated in a microwave reactor at 150° C. for 60 minutes. The reaction was cooled and partitioned between ethyl acetate and water. The organic layer was dried and concentrated to give a brown solid that was purified by reverse phase chromatography to give N′-(5-chloro-1,3-benzodioxol-4-yl)-N-[2-methyl-6-(4-methylpiperazin-1-yl)pyrimidin-4-yl]pyrimidine-2,4-diamine as a yellow solid (25 mg, 13%); NMR Spectrum (300 MHz, CDCl3) 2.30 (s, 3H), 2.37 (s, 3H), 2.55 (br s, 4H), 3.64 (br s, 4H), 5.90 (s, 2H), 5.95 (d, 1H), 6.58-6.68 (m, 1H), 6.78-6.95 (m, 1H), 7.40 (s, 1H), 8.09 (d, 1H); Mass Spectrum M+ 455.

reactant | 2-Methyl-6-(4-methylpiperazin-1-yl)pyrimidin-4-amine | 71 mg | CC1=NC(=CC(=N1)N)N1CCN(CC1)C | C10H17N5
reactant | Xantphos | 24 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | caesium carbonate | 166 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-chloro-N-(5-chloro-1,3-benzodioxol-4-yl)pyrimidin-4-amine | 117 mg | ClC1=NC=CC(=N1)NC1=C(C=CC=2OCOC21)Cl | C11H7Cl2N3O2
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N′-(5-chloro-1,3-benzodioxol-4-yl)-N-[2-methyl-6-(4-methylpiperazin-1-yl)pyrimidin-4-yl]pyrimidine-2,4-diamine | 25 mg, 13% | ClC1=C(C2=C(OCO2)C=C1)NC1=NC(=NC=C1)NC1=NC(=NC(=C1)N1CCN(CC1)C)C | C21H23ClN8O2
